US06673799B1
(+/−)-trans-N-(2-Acetylamino-pyrimidin-4-yl)-4-(4-cyano-3-trifluoromethylphenyl)-2,5-dimethylpiperazine-1-carboxamide
A 1.2 ml portion of acetic anhydride was added to 10 ml of pyridine solution containing 0.51 g of (+/−)-trans-N-(2-amino-pyrimidin-4-yl)-4-(4-cyano-3-trifluoromethylphenyl)-2,5-dimethylpiperazine-1-carboxamide synthesized in the same manner as described in Example 21, and the mixture was stirred at room temperature for about 12 hours and then heated at 70° C. for about 1 hour. The reaction solution was evaporated under reduced pressure, and the thus obtained residue was mixed with 0.5 N aqueous sodium hydroxide and extracted with chloroform. The thus obtained organic layer was washed with water and dried over anhydrous magnesium sulfate, and then the crude product obtained by evaporating the solvent was separated by a silica gel column chromatography to obtain 0.46 g of the title compound from chloroform-methanol-28% aqueous ammonia (500:9:1, v/v/v) eluate. Thereafter, this was crystallized from ethyl acetate-hexane solution to obtain 0.31 g of white crystals.

reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | (+/−)-trans-N-(2-amino-pyrimidin-4-yl)-4-(4-cyano-3-trifluoromethylphenyl)-2,5-dimethylpiperazine-1-carboxamide | 0.51 g | NC1=NC=CC(=N1)NC(=O)N1[C@H](CN([C@@H](C1)C)C1=CC(=C(C=C1)C#N)C(F)(F)F)C | C19H20F3N7O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | (+/−)-trans-N-(2-Acetylamino-pyrimidin-4-yl)-4-(4-cyano-3-trifluoromethylphenyl)-2,5-dimethylpiperazine-1-carboxamide | 0.46 g | C(C)(=O)NC1=NC=CC(=N1)NC(=O)N1[C@H](CN([C@@H](C1)C)C1=CC(=C(C=C1)C#N)C(F)(F)F)C | C21H22F3N7O2
